US08222416B2
5-Nitro-3-trimethylsilanylethynyl-pyridin-2-ylamine (0.7 g, 2.98 mmol) and copper(I) iodide (114 mg, 0.60 mmol) were dissolved in N,N-dimethylacetamide (14 mL). The mixture was irradiated in a microwave reactor at 190° C. for 30 min. The mixture was evaporated to remove N,N-dimethylacetamide in vacuo. The residue was dissolved in hot tetrahydrofuran (50° C., 250 mL) and filtered through a short pad of silica gel (from QingDao, 200-300 mesh). The filtrate was concentrated to afford 5-nitro-1H-pyrrolo[2,3-b]pyridine (0.4 g, 83%) as a yellow solid: LC/MS m/e calcd for C7H5N3O2 [M+H]+ 164.14, observed 164.0.

reactant | 5-Nitro-3-trimethylsilanylethynyl-pyridin-2-ylamine | 2.98 mmol, 0.7 g | [N+](=O)([O-])C=1C=C(C(=NC1)N)C#C[Si](C)(C)C | C10H13N3O2Si
solvent | N,N-dimethylacetamide | 14 mL | CN(C(C)=O)C | C4H9NO
catalyst | copper(I) iodide | 0.60 mmol, 114 mg | [Cu]I
product | 5-nitro-1H-pyrrolo[2,3-b]pyridine | 0.4 g, 83% | [N+](=O)([O-])C=1C=C2C(=NC1)NC=C2 | C7H5N3O2
